US08871774B2
Formation of N-((1R,3S)-3-(5-fluoro-2-(5-fluoro-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-ylamino)cyclohexyl)cyclopentanecarboxamide (I-14)
To a solution of N-[(1R,3S)-3-[[5-fluoro-2-(5-fluoro-1-trityl-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl]amino]cyclohexyl]pyrrolidine-1-carboxamide, 22, (0.100 g, 0.146 mmol) in dichloromethane (5 mL) was added triethylsilane (0.350 mL, 2.190 mmol) followed by trifluoroacetic acid (0.337 mL, 4.380 mmol). The reaction mixture was stirred at room temperature for 1 h. The reaction mixture was diluted into 30 ml CH2Cl2 and aqueous saturated NaHCO3 solution. The organic phase was washed with brine, dried over MgSO4 and the solvent was removed under reduced pressure. The crude residue was purified by silica gel chromatography (12% MeOH and 88% CH2Cl2) to afford 64 mg of the desired product: 1H NMR (300 MHz, CDCl3) δ 8.42 (dd, J=2.7, 1.4 Hz, 1H), 7.90 (d, J=3.2 Hz, 1H), 7.51 (dd, J=8.6, 2.7 Hz, 1H), 5.15 (d, J=5.5 Hz, 1H), 4.26 (d, J=7.9 Hz, 1H), 3.99-3.79 (m, 1H), 3.38 (d, J=3.2 Hz, 4H), 3.09 (d, J=6.6 Hz, 1H), 2.82 (d, J=11.3 Hz, 1H), 2.16-2.05 (m, 1H), 2.01-1.85 (m, 5H), 1.78 (d, J=13.2 Hz, 1H), 1.32-1.04 (m, 4H), 0.92 (dd, J=21.7, 11.8 Hz, 1H); LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, RT=2.31 min, (M+H) 443.34.

reactant | N-[(1R,3S)-3-[[5-fluoro-2-(5-fluoro-1-trityl-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-yl]amino]cyclohexyl]pyrrolidine-1-carboxamide | FC=1C(=NC(=NC1)C1=NN(C2=NC=C(C=C21)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N[C@@H]2C[C@@H](CCC2)NC(=O)N2CCCC2 | C40H38F2N8O
reactant | triethylsilane | 2.190 mmol, 0.350 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 4.380 mmol, 0.337 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | N-((1R,3S)-3-(5-fluoro-2-(5-fluoro-1H-pyrazolo[3,4-b]pyridin-3-yl)pyrimidin-4-ylamino)cyclohexyl)cyclopentanecarboxamide | 64 mg | FC=1C(=NC(=NC1)C1=NNC2=NC=C(C=C21)F)N[C@@H]2C[C@@H](CCC2)NC(=O)C2CCCC2 | C22H25F2N7O
